US09399639B2
Step 1) tert-butyl 4-(2-(chloromethoxy)-2-oxoethyl)piperidine-1-carboxylate
To a solution of 2-(1-(tert-butoxycarbonyl)piperidin-4-yl)acetic acid (1 g, 4.1 mmol) in DCM (25 mL) and H2O (25 mL) were added NaHCO3 (1.38 g, 16.4 mmol) and TBAHSO4 (0.14 g, 0.41 mmol). The reaction was stirred at 0° C. for 10 min, followed by the addition of a solution of chloromethyl sulfochloridate (499 μL, 5.5 mmol) in DCM (5 mL). The mixture was stirred at rt for 20 h, then washed with brine (25 mL). The organic phase was dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (PE/EtOAc (v/v)=10/1) to give the title compound as colorless oil (826 mg, 69.1%). The title compound was characterized by 1H NMR as shown below:

reactant | 2-(1-(tert-butoxycarbonyl)piperidin-4-yl)acetic acid | 4.1 mmol, 1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(=O)O | C12H21NO4
reactant | NaHCO3 | 16.4 mmol, 1.38 g | C(=O)(O)[O-].[Na+]
reactant | DCM | 25 mL | C(Cl)Cl | CH2Cl2
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 25 mL | O | H2O
product | tert-butyl 4-(2-(chloromethoxy)-2-oxoethyl)piperidine-1-carboxylate | 826 mg, 69.1% | ClCOC(CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C13H22ClNO4
